US08383821B2
1-(3-(Bromomethyl)-5-(trifluoromethyl)phenyl)-5-methyl-1H-tetrazole.
(3-(5-Methyl-1H-tetrazol-1-yl)-5-(trifluoromethyl)phenyl)methanol (110 mg, 0.46 mmol) and triphenylphosphine (240 mg, 0.93 mmol) were combined in methylene chloride (4 mL) and cooled to 0° C. N-Bromosuccinimide (171 mg, 0.96 mmol) was introduced in portions and the reaction allowed to warm to room temperature. After 16 h, the reaction mixture was diluted with ethyl acetate, washed with concentrated sodium bicarbonate (2×), brine (2×), dried over sodium sulfate, and concentrated. Column chromatography on silica gel (20% ethyl acetate/hexanes) gave 120 mg (82%). LC/MS (HPLC method 3): tR=2.30 min, 323.01 (MH)+.

reactant | (3-(5-Methyl-1H-tetrazol-1-yl)-5-(trifluoromethyl)phenyl)methanol | 0.46 mmol, 110 mg | CC1=NN=NN1C=1C=C(C=C(C1)C(F)(F)F)CO | C10H9F3N4O
reactant | triphenylphosphine | 0.93 mmol, 240 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-Bromosuccinimide | 0.96 mmol, 171 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-(Bromomethyl)-5-(trifluoromethyl)phenyl)-5-methyl-1H-tetrazole | BrCC=1C=C(C=C(C1)C(F)(F)F)N1N=NN=C1C | C10H8BrF3N4
